US06339045B1
Production of N-phenyl-4-methylmercapto-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide (compound No. I-22)
2.06 g (0.0106×1.2 mol) of 3-(trifluoromethyl) phenol was dissolved in about 20 ml of DMF. The solution was further mixed with 0.45 g (ca. 60% in mineral oil; 0.0106×1.06 mol) of NaH and then with 3.00 g (0.0106 mol) of 2,6-dibromo-4-methylmercapto pyridine. After stirring at about 110° C. for about 2 hours, the mixture was allowed to stand for cooling to room temperature. After the reaction solution was distributed in hexane-saturated sodium bicarbonate water, the organic phase of the obtained solution was washed with saturated brine and dried with anhydrous sodium sulfate. The resultant solution was concentrated and then purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), and the obtained eluate was subjected to recrystallization using hexane, thereby obtaining an aimed product.

reactant | 3-(trifluoromethyl) phenol | 1.2 mol, 2.06 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | NaH | 1.06 mol, 0.45 g | [H-].[Na+]
reactant | 2,6-dibromo-4-methylmercapto pyridine | 0.0106 mol, 3.00 g | BrC1=NC(=CC(=C1)SC)Br | C6H5Br2NS
reactant | DMF | about 20 ml | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | N-phenyl-4-methylmercapto-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide | C1(=CC=CC=C1)NC(=O)C1=NC(=CC(=C1)SC)OC1=CC(=CC=C1)C(F)(F)F | C20H15F3N2O2S
